US05443698
To a reaction flask equipped with a mechanical stirrer and thermometer was charged 10.0 g (0,069 mole) of 2-ethylhexanoic acid, 10.0 g mineral spirits, 80.0 g water and 0.45 g of tetraethylammonium chloride. The electrical connections were then made and 11,416 coulombs of direct current were passed. 3.30 g (0,056 mole) of nickel was consumed. After removal of the aqueous layer, a greenish semi-solid was obtained. This material was tertiurated with acetone and gave a green solid containing 7.30% nickel. The filtrate was dried and the acetone was stripped off on a rotary evaporator under reduced pressure. This resulted in a green solution of nickel octoate in mineral spirits containing 10.9% nickel.

reactant | 2-ethylhexanoic acid | 0,069 mole, 10.0 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | water | 80.0 g | O | H2O
reactant | nickel | 0,056 mole, 3.30 g | [Ni] | Ni
reactant | acetone | CC(=O)C | C3H6O
catalyst | tetraethylammonium chloride | 0.45 g | [Cl-].C(C)[N+](CC)(CC)CC
product | nickel octoate | CCCCCCCC(=O)[O-].CCCCCCCC(=O)[O-].[Ni+2] | InChI=1S/2C8H16O2.Ni/c2*1-2-3-4-5-6-7-8(9)10;/h2*2-7H2,1H3,(H,9,10);/q;;+2/p-2
